US04898455
A solution of 12.4 g of 2-(p-bromophenyl)-5-(2-methoxyvinyl)pyridine in 200 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) is heated to reflux for 1 hour while stirring. The reaction mixture is subsequently partitioned three times in diethyl ether/water. The organic extracts are washed twice with water, dried over magnesium sulphate, filtered and evaporated, whereby [2-(p-bromophenyl)-5-pyridyl]acetaldehyde is obtained as the residue.

reactant | 2-(p-bromophenyl)-5-(2-methoxyvinyl)pyridine | 12.4 g | BrC1=CC=C(C=C1)C1=NC=C(C=C1)C=COC | C14H12BrNO
solvent | tetrahydrofuran | 2N, 200 ml | O1CCCC1 | C4H8O
product | [2-(p-bromophenyl)-5-pyridyl]acetaldehyde | BrC1=CC=C(C=C1)C1=NC=C(C=C1)CC=O | C13H10BrNO
